US07399759B2
tert-Butyl (6-cyano-2-pyridyl)methylcarbamate
tert-Butyl 2-pyridylmethylcarbamate N-oxide (3.0 g, 13.3 mmol) was dissolved in nitroethane (50 ml), and trimethylsilyl cyanide (2.8 g, 28.6 mmol) and N,N-dimethylcarbamoyl chloride (1.7 g, 16.2 mmol) were added thereto. The mixture was stirred at room temperature for 24 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-hexane (2:1, v/v) were collected, concentrated and recrystallized from hexane-ethyl acetate to give the titled compound (1.8 g, 58%) as white crystals.

reactant | tert-Butyl 2-pyridylmethylcarbamate N-oxide | 13.3 mmol, 3.0 g | N1=C(C=CC=C1)C[NH+](C(OC(C)(C)C)=O)[O-] | C11H16N2O3
reactant | trimethylsilyl cyanide | 28.6 mmol, 2.8 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 16.2 mmol, 1.7 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | nitroethane | 50 ml | [N+](=O)([O-])CC | C2H5NO2
product | tert-Butyl (6-cyano-2-pyridyl)methylcarbamate | 1.8 g, 58% | C(#N)C1=CC=CC(=N1)CNC(OC(C)(C)C)=O | C12H15N3O2
